US04058550
A mixture of 8.35 g of 2,3-epoxypropyl 4-(n-hexadecylamino)benzoate and 7.0 ml of acetic acid is heated at 100° C for four hours, allowed to cool, and diluted with water. Filtration affords 2-acetoxy-3-hydroxypropyl 4-(n-hexadecylamino)benzoate, mp 67° C unchanged by recrystallization.

reactant | 2,3-epoxypropyl 4-(n-hexadecylamino)benzoate | 8.35 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC2CO2)C=C1 | C26H43NO3
reactant | acetic acid | 7.0 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
product | 2-acetoxy-3-hydroxypropyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)OC(C)=O)C=C1 | C28H47NO5
